US04006145
136.5 g of potassium cyanide in 183 ml of water are heated under reflux for 10 hours under a nitrogen atmosphere with 470 g of 3-bromo-6-(phenylthio)-benzyl chloride. The ethanol is distilled off under reduced pressure, the residue diluted with water and extracted with ether. The extracts are washed with water, dried over magnesium sulphate and evaporated. There is obtained 3-bromo-6-(phenylthio)-phenylacetonitrile as a brown oil.

reactant | potassium cyanide | 136.5 g | [C-]#N.[K+]
reactant | 3-bromo-6-(phenylthio)-benzyl chloride | 470 g | BrC=1C=C(CCl)C(=CC1)SC1=CC=CC=C1 | C13H10BrClS
solvent | water | 183 ml | O | H2O
product | 3-bromo-6-(phenylthio)-phenylacetonitrile | BrC=1C=C(C(=CC1)SC1=CC=CC=C1)CC#N | C14H10BrNS
